US07728021B2
Nitrogen is bubbled for 5 min. To a mixture made up of 0.50 g (1.35 mmol) of N-(4-bromobenzyl)-N-valeryl-L-valine, 0.308 g (1.52 mmol) of 2-(1H-tetrazol-5-yl)phenylboronic acid, 0.0028 g (0.016 mmol) of palladium chloride and 0.0084 g (0.032 mmol) of triphenylphosphine in a solution of 2.06 mL (13.0 mmol) of sodium methoxide in methanol al 30% and 5 mL of methanol are added. It is heated at 70° C. under nitrogen atmosphere for 5 h, 0.050 g of activated carbon is added and it is stirred at the same temperature for a further 15 min. After cooling to 20-25° C. it is filtered, the methanol is evaporated and it is treated with 25 mL of HCl 1N and 25 mL of AcOEt. The AcOEt phase is dried with anhydrous sodium sulphate and after distilling the solvent the crude product obtained is purified by silica gel chromatography (eluent AcOEt/heptane/AcOH 15:5:0.2) to provide 0.327 g (55.6%) of Valsartan.

reactant | N-(4-bromobenzyl)-N-valeryl-L-valine | 1.35 mmol, 0.50 g | BrC1=CC=C(CN([C@@H](C(C)C)C(=O)O)C(CCCC)=O)C=C1 | C17H24BrNO3
reactant | 2-(1H-tetrazol-5-yl)phenylboronic acid | 1.52 mmol, 0.308 g | N1N=NN=C1C1=C(C=CC=C1)B(O)O | C7H7BN4O2
reactant | sodium methoxide | 13.0 mmol, 2.06 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
catalyst | palladium chloride | 0.016 mmol, 0.0028 g | [Pd](Cl)Cl
catalyst | triphenylphosphine | 0.032 mmol, 0.0084 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methanol | 5 mL | CO | CH4O
product | Valsartan | 0.327 g, 55.6% | CCCCC(=O)N(CC=1C=CC(=CC1)C=2C=CC=CC2C=3NN=NN3)[C@@H](C(C)C)C(=O)O | C24H29N5O3
